US05478842
Using an analogous procedure to that described in Example 5, 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with (2RS,3SR)-3-hydroxy-3-(2-mercaptothien-4-yl)-2-methyltetrahydrofuran to give (2RS,3SR)-3-hydroxy-2-methyl-3-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]tetrahydrofuran in 42% yield as a foam;

reactant | 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | IC=1C=C2CCC(N(C2=CC1)C)=O | C10H10INO
reactant | (2RS,3SR)-3-hydroxy-3-(2-mercaptothien-4-yl)-2-methyltetrahydrofuran | OC1(C(OCC1)C)C=1C=C(SC1)S | C9H12O2S2
product | (2RS,3SR)-3-hydroxy-2-methyl-3-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]tetrahydrofuran | 42% yield | OC1(C(OCC1)C)C=1C=C(SC1)SC=1C=C2CCC(N(C2=CC1)C)=O | C19H21NO3S2
